US09212165B2
Step 4: tert-Butyl 5-formylbicyclo[3.2.1]octan-1-ylcarbamate
To a stirred solution of tert-butyl 5-(hydroxymethyl)bicyclo[3.2.1]octan-1-ylcarbamate (7.0 g, 24.8 mmol) in DCM (50 mL) was added PCC (8.0 g, 37.2 mmol) in portions under N2 and the reaction mixture was stirred at room temperature for two hours. The mixture was filtered through a pad of silica gel and the filtrate was concentrated under reduced pressure to give 6.44 g (92%) of the crude title compound, tert-butyl 5-formylbicyclo[3.2.1]octan-1-ylcarbamate, as a brown oil, which was used in the next step without further purification. ESI-MS m/z: 198 (M-55)+.

reactant | tert-butyl 5-(hydroxymethyl)bicyclo[3.2.1]octan-1-ylcarbamate | 24.8 mmol, 7.0 g | OCC12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C14H25NO3
reactant | PCC | 37.2 mmol, 8.0 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-formylbicyclo[3.2.1]octan-1-ylcarbamate | 6.44 g, 92% | C(=O)C12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C14H23NO3
